US06806274B1
1-(2-aminophenyl)-3-(6,7-dimethoxyquinazolin-4-yl)urea
A mixture of 1-(6,7-dimethoxyquinazolin-4-yl)-3-(2-nitrophenyl)urea (0.18 g), 10% palladium-on-charcoal catalyst (0.023 g) and DMF (10 ml) was stirred at ambient temperature under an atmosphere of hydrogen for 16 hours. The reaction mixture was filtered and the filtrate was evaporated. The resultant gum was triturated under ethyl acetate and there was thus obtained the title compound as a solid (0.137 g); NMR Spectrum: (DMSOd6) 3.85-3.95 (br s, 8H), 6.63 (t, 1H), 6.81 (d, 1H), 6.91 (t, 1H), 7.25 (s, 1H), 7.47 (d, 1H), 8.05 (s, 1H), 8.64 (s, 1H), 10.28 (br s, 1H), 11.74 (br s, 1H); Mass Spectrum: M+H+ 340.

reactant | 1-(6,7-dimethoxyquinazolin-4-yl)-3-(2-nitrophenyl)urea | 0.18 g | COC=1C=C2C(=NC=NC2=CC1OC)NC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C17H15N5O5
catalyst | palladium-on-charcoal | 0.023 g | [Pd] | Pd
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(2-aminophenyl)-3-(6,7-dimethoxyquinazolin-4-yl)urea | 0.137 g | NC1=C(C=CC=C1)NC(=O)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C17H17N5O3
